US09169254B2
Sodium hydride (81 mg, 1.80 mmol) was added to a solution of N-(4-bromo-3-methyl-phenyl)-2-hydroxy-acetamide (200 mg, 0.819 mmol) in DMF (4.0 ml), and the mixture was stirred at room temperature for 50 minutes. Further, dibromomethane (0.114 ml, 1.64 mmol) was added to the reaction solution, and the mixture was heated with stirring at 110° C. for two hours. Cooling to room temperature and subsequent purification by silica gel column chromatography (hexane-ethyl acetate) gave 3-(4-bromo-3-methyl-phenyl)-oxazolidin-4-one (45 mg, 21%).

reactant | Sodium hydride | 1.80 mmol, 81 mg | [H-].[Na+]
reactant | N-(4-bromo-3-methyl-phenyl)-2-hydroxy-acetamide | 0.819 mmol, 200 mg | BrC1=C(C=C(C=C1)NC(CO)=O)C | C9H10BrNO2
reactant | dibromomethane | 1.64 mmol, 0.114 ml | BrCBr | CH2Br2
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 3-(4-bromo-3-methyl-phenyl)-oxazolidin-4-one | 45 mg, 21% | BrC1=C(C=C(C=C1)N1COCC1=O)C | C10H10BrNO2
